US08623880B2
1,3-Dimethyl-1H-pyrrolo[2,3-d]pyrimidine-2,4(3H,7H)-dione:
To a stirred solution of chloroacetaldehyde dimethyl acetal (26.0 g, 208.717 mmol) in water (60 mL) concentrated hydrochloric acid (4 mL) was added at room temperature and the reaction mixture was stirred at near boiling until a homogeneous solution was obtained. Solution of sodium acetate (8.0 g, 97.525 mmol) was then added. The resulting mixture was then added to a stirred solution consisting of 6-amino-1,3-dimethyl uracil (20.0 g, 128.907 mmol) and sodium acetate (16.0 g, 195.051) in water (100 mL) at 90° C. All solid material was dissolved, then after 10 min. a precipitate was started to form. The reaction mixture was stirred for another 30 min. at the same temperature. The reaction mixture was cooled to room temperature and solid obtained was filtered, washed with water (2×250 mL) and then acetone (2×150 mL). The solid obtained was dried in oven at 65° C. to obtain 7.81 g of the product as an off-white solid; 1H NMR (δ ppm, 300 MHz, DMSO-d6) 3.20 (s, 3H), 3.42 (s, 3H), 6.35 (s, 1H), 6.77 (s, 1H), 11.71 (br s, 1H); APCI-MS (m/z) 180.25 (M+H)+.

reactant | chloroacetaldehyde dimethyl acetal | 208.717 mmol, 26.0 g | COC(CCl)OC | C4H9ClO2
reactant | sodium acetate | 97.525 mmol, 8.0 g | C(C)(=O)[O-].[Na+]
reactant | 6-amino-1,3-dimethyl uracil | 128.907 mmol, 20.0 g | NC1=CC(N(C(N1C)=O)C)=O | C6H9N3O2
reactant | sodium acetate | 16.0 g | C(C)(=O)[O-].[Na+]
solvent | water | 60 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 1,3-Dimethyl-1H-pyrrolo[2,3-d]pyrimidine-2,4(3H,7H)-dione | 7.81 g | CN1C(N(C(C2=C1NC=C2)=O)C)=O | C8H9N3O2
